US04954518
In 5 ml of acetic acid were dissolved 500 mg of 3-amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one and 250 mg of 2,5-dimethoxytetrahydrofuran. The mixture was stirred for 30 minutes at 70°-80° C. and then cooled to room temperature. 50 ml of water was added thereto. The resulting crystal was collected by filtration and recrystallized from ethyl acetate-diisopropyl ether to obtain 250 mg (yield: 43.7%) of 7-methylsulfonylamino-6-phenoxy-3-(1-pyrrolyl)-4H-1-benzopyran-4-one having a melting point of 238.5°-240° C.

reactant | 3-amino-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 500 mg | NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C16H14N2O5S
reactant | 2,5-dimethoxytetrahydrofuran | 250 mg | COC1OC(CC1)OC | C6H12O3
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 7-methylsulfonylamino-6-phenoxy-3-(1-pyrrolyl)-4H-1-benzopyran-4-one | 250 mg, yield: 43.7% | CS(=O)(=O)NC1=CC2=C(C(C(=CO2)N2C=CC=C2)=O)C=C1OC1=CC=CC=C1 | C20H16N2O5S
